US06699995B1
To a solution of 4-(4-chlorophenyl)-2-oxo-4-oxazoline (794.3 g) in acetonitrile (2383 mL) was added dropwise conc. sulfuric acid (1195 g) under ice-cooling at not higher than 10° C. Then methyl acrylate (731 mL) was added at not higher than 10° C., and the mixture was taken out from an ice-bath and stirred at room temperature for 3 h. Water (7.94 L) was added under ice-cooling at not higher than 20° C. The precipitated crystals were collected by filtration and washed successively with 1% aqueous sodium hydrogencarbonate, water, isopropyl ether to give methyl 2-(4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl)propionate (1017.8 g; yield 89%). Recrystallization from methanol gave colorless crystals.

reactant | 4-(4-chlorophenyl)-2-oxo-4-oxazoline | 794.3 g | ClC1=CC=C(C=C1)C=1NC(OC1)=O | C9H6ClNO2
reactant | sulfuric acid | 1195 g | S(O)(O)(=O)=O | H2O4S
reactant | methyl acrylate | 731 mL | C(C=C)(=O)OC | C4H6O2
reactant | Water | 7.94 L | O | H2O
solvent | acetonitrile | 2383 mL | C(C)#N | C2H3N
product | methyl 2-(4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl)propionate | 1017.8 g, yield 89% | ClC1=CC=C(C=C1)C=1NC(OC1C(C(=O)OC)C)=O | C13H12ClNO4
